US05492925
Preparation of 2-(p-Chlorophenyl)-3-nitro-4-(5-nitro-2-thienyl)-5-(trifluoromethyl)pyrrol
A 90% nitric acid solution (0.02 g, 0.28 mmol) is added to a solution of 5-(p-chlorophenyl)-3-(5-nitro-2-thienyl)-2-(trifluoromethyl)pyrrole (0.13 g, 0.34 mmol) in acetic anhydride. The reaction mixture is stirred at room temperature for ten minutes, treated with additional 90% nitric acid solution (0.02 g, 0.28 mmol), stirred at room temperature for 15 minutes, poured into water, stirred at room temperature overnight and extracted with ether. The combined organic extracts are dried over MgSO4 and concentrated in vacuo to obtain the title product as a tan solid which is identified by 1HNMR spectral analysis.

reactant | nitric acid | 0.28 mmol, 0.02 g | [N+](=O)(O)[O-] | HNO3
reactant | 5-(p-chlorophenyl)-3-(5-nitro-2-thienyl)-2-(trifluoromethyl)pyrrole | 0.34 mmol, 0.13 g | ClC1=CC=C(C=C1)C1=CC(=C(N1)C(F)(F)F)C=1SC(=CC1)[N+](=O)[O-] | C15H8ClF3N2O2S
reactant | nitric acid | 0.28 mmol, 0.02 g | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(p-Chlorophenyl)-3-nitro-4-(5-nitro-2-thienyl)-5-(trifluoromethyl)pyrrol | ClC1=CC=C(C=C1)C=1NC(=C(C1[N+](=O)[O-])C=1SC(=CC1)[N+](=O)[O-])C(F)(F)F | C15H7ClF3N3O4S
